US06403610B1
A solution of 0.460 g of methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(5-chlorothien-2-yl)ethyl]piperidine-3-carboxylate in 5 cm3 of dioxane which had been added 0.51 cm3 of a 5N aqueous sodium hydroxide solution was stirred at a temperature in the region of 60° C. for 48 hours. After a further addition of 1 cm3 of 5N sodium hydroxide solution, the mixture was again heated at a temperature in the region of 70° C. for 72 hours. The reaction mixture was evaporated under reduced pressure (5 kPa) at a temperature in the region of 45° C. and then the residue obtained was purified by chromatography under a nitrogen pressure of 40 kPa on a column of silica gel (particle size 40-63 μm; diameter 3 cm; silica height 27 cm), elution was carried out with a dichloromethane/methanol/28% aqueous ammonia (14/4/0.6 by volume) mixture, and 15-cm3 fractions were collected. Fractions 7 to 16 were evaporated under reduced pressure (5 kPa) at a temperature in the region of 40° C. 0.30 g of (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(5-chlorothien-2-yl)ethyl]piperidine-3-carboxylic acid was obtained in the form of a foam with a white color.

reactant | methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(5-chlorothien-2-yl)ethyl]piperidine-3-carboxylate | 0.460 g | OC(CC[C@H]1[C@H](CN(CC1)CCC=1SC(=CC1)Cl)C(=O)OC)C1=CC=NC2=CC=C(C=C12)OC | C26H31ClN2O4S
reactant | sodium hydroxide | 5N | [OH-].[Na+]
reactant | sodium hydroxide | 5N, 1 cm3 | [OH-].[Na+]
solvent | dioxane | 5 cm3 | O1CCOCC1 | C4H8O2
product | (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(5-chlorothien-2-yl)ethyl]piperidine-3-carboxylic acid | 0.30 g | OC(CC[C@H]1[C@H](CN(CC1)CCC=1SC(=CC1)Cl)C(=O)O)C1=CC=NC2=CC=C(C=C12)OC | C25H29ClN2O4S
